US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and 4-ethylphenylboronic acid (62.3 mg, 0.42 mmol, 1.50 equiv) as reactants. Purification via silica gel column (dichloromethane/methanol (5:1)) yielded 52 mg (49%) of 3-(4-ethylphenyl)-2-phenylquinoxaline-6-carboxylic acid as a white solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 4-ethylphenylboronic acid | 0.42 mmol, 62.3 mg, 1.50 equiv | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
product | 3-(4-ethylphenyl)-2-phenylquinoxaline-6-carboxylic acid | 52 mg, 49% | C(C)C1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C23H18N2O2
